US07429667B2
4-(2,5-Dichloro-phenoxy)-3-fluoro-phenylisothiocyanate
4-(2,5-Dichloro-phenoxy)-3-fluoro-phenylamine (1.36 g, 5 mmol) was dissolved in 150 ml of chloroform and 100 ml of saturated aqueous sodium bicarbonate was added. To this biphasic mixture was added dropwise a solution of thiophosgene (0.39 ml, 5 mmol) in 30 ml of chloroform at room temperature with vigorous stirring. The mixture was stirred vigorously for 1 hour at room temperature. The bottom layer of the mixture was separated, and the aqueous layer was extracted twice with CHCl3. The combined organic solution was washed with water, dried over Mg2SO4 and evaporated to give 1.53 g (97.4%) of crude product used for next step without further purification.

reactant | 4-(2,5-Dichloro-phenoxy)-3-fluoro-phenylamine | 5 mmol, 1.36 g | ClC1=C(OC2=C(C=C(C=C2)N)F)C=C(C=C1)Cl | C12H8Cl2FNO
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
reactant | thiophosgene | 5 mmol, 0.39 ml | C(=S)(Cl)Cl | CCl2S
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(2,5-Dichloro-phenoxy)-3-fluoro-phenylisothiocyanate | 1.53 g, 97.4% | ClC1=C(OC2=C(C=C(C=C2)N=C=S)F)C=C(C=C1)Cl | C13H6Cl2FNOS
